US05698567
(60 g (0.3 mol) of 4-hydroxybenzophenone, 42 g of benzyl chloride, 45.6 g of potassium carbonate, 0.5 g of potassium iodide and 1 litre of dimethylformamide are introduced into a flask. Stirring is carried out at room temperature for 72 hours. The mixture is filtered and concentrated to dryness without exceeding 30° C. The residue is taken up in methylene chloride and washed with a 10% sodium carbonate solution and then with a saturated lithium chloride solution. The mixture is dried over sodium sulphate and concentrated to dryness. There are obtained 85 g of 4-benzyloxybenzophenone. Yield: 99%.

reactant | 4-hydroxybenzophenone | 0.3 mol, 60 g | OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H10O2
reactant | benzyl chloride | 42 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | 45.6 g | C([O-])([O-])=O.[K+].[K+]
catalyst | potassium iodide | 0.5 g | [I-].[K+]
solvent | dimethylformamide | 1 litre | CN(C=O)C | C3H7NO
product | 4-benzyloxybenzophenone | 85 g, Yield: 99% | C(C1=CC=CC=C1)OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C20H16O2
